US04284631
2-(2-Formamidothiazol-4-yl)-2-allylthioethoxyiminoacetic acid (syn isomer, 1.95 g.), N,N-dimethylformamide (0.543 g.), phosphoryl chloride (1.14 g.) and tetrahydrofuran (19 ml.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. A suspension of 7-amino-3-cephem-4-carboxylic acid (1.24 g.) in a mixture of acetone (12.4 ml.) and water (6.2 ml.) was adjusted to pH 7 with 20% aqueous sodium carbonate. To the solution was added dropwise the activated acid solution at -5° to 0° C. while keeping at pH 7.0 to 7.5 and stirred at the same temperature for 30 minutes. After distilling off the organic solvent in vacuo, the aqueous solution was adjusted to pH 2 with 10% hydrochloric acid and extracted with ethyl acetate twice. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diethyl ether and the precipitates were collected by filtration to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-allylthioethoxyimino)-acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.1 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-allylthioethoxyiminoacetic acid | 1.95 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCSCC=C | C11H13N3O4S2
reactant | phosphoryl chloride | 1.14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-cephem-4-carboxylic acid | 1.24 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 12.4 ml | CC(=O)C | C3H6O
solvent | water | 6.2 ml | O | H2O
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.543 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-allylthioethoxyimino)-acetamido]-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCSCC=C | C18H19N5O6S3
